US07635394B2
Synthesis of 2-methoxy-7-methyl-pyrazolo[1,5-a]pyridin-3-ylamine hydrochloride
Added dropwise were 10 ml of 35% hydrochloric acid and then, in portions, 1.8 g of 2-methoxy-7-methyl-3-nitropyrazolo[1,5-a]pyridine.

reactant | 2-methoxy-7-methyl-3-nitropyrazolo[1,5-a]pyridine | 1.8 g | COC1=NN2C(C=CC=C2C)=C1[N+](=O)[O-] | C9H9N3O3
reactant | hydrochloric acid | 10 ml | Cl | ClH
product | 2-methoxy-7-methyl-pyrazolo[1,5-a]pyridin-3-ylamine hydrochloride | Cl.COC1=NN2C(C=CC=C2C)=C1N | InChI=1S/C9H11N3O.ClH/c1-6-4-3-5-7-8(10)9(13-2)11-12(6)7;/h3-5H,10H2,1-2H3;1H
